US08198448B2
A 330 mL pressure vessel was charged with 5-chloro-2,3-difluoropyridine (5.00 g, 33.4 mmol), 3-methyl-5-(tributylstannyl)isoxazole (14.9 g, 40.1 mmol), XPhos (2.23 g, 4.68 mmol), PdOAc2 (0.526 g, 2.34 mmol), and 1,4-dioxane (167 ml, 33.4 mmol), flushed with argon, sealed, then heated at 100° C. for 16 hours. The mixture was concentrated; the black oil was absorbed onto silica gel and purified by MPLC, eluting with 20% EtOAc in hexanes isocratic to yield an orange solid; this was triturated with hexanes to give 2,3-difluoro-5-(3-methylisoxazol-5-yl)pyridine (3.6278 g, 55.3% yield) as a yellow solid.

reactant | 5-chloro-2,3-difluoropyridine | 33.4 mmol, 5.00 g | ClC=1C=C(C(=NC1)F)F | C5H2ClF2N
reactant | 3-methyl-5-(tributylstannyl)isoxazole | 40.1 mmol, 14.9 g | CC1=NOC(=C1)[Sn](CCCC)(CCCC)CCCC
reactant | XPhos | 4.68 mmol, 2.23 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | 1,4-dioxane | 33.4 mmol, 167 ml | O1CCOCC1 | C4H8O2
product | 2,3-difluoro-5-(3-methylisoxazol-5-yl)pyridine | 3.6278 g, 55.3% yield | FC1=NC=C(C=C1F)C1=CC(=NO1)C | C9H6F2N2O
